US07884110B2
Intermediate 6: 3-(4-Chloro-3-trifluoromethyl-benzenesulfonylamino)-5-methyl-pyridine-2 carboxylicacid
To 3-amino-5-methylpicolinonitrile (9.6 g, 72 mmol) in pyridine (63 mL) was added 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (19.6 g, 80 mmol) in one portion and the resulting reaction mixture was stirred at 60° C. for overnight. Pyridine was removed in vacuo, added 2N HCl (100 mL), extracted with EtOAc (3×300 mL; Note: due to the amide presence, solubility in EtOAc is low). Combined EtOAc layers were dried (Na2SO4), evaporated to obtain 26.3 g of crude product which contained a small amount of bis-sulfonamide which was subjected to hydrolysis in THF (200 mL) with 2N NaOH (100 mL) at room temperature for 2 hours. 2 N HCl (100 mL) Was added, extracted with EtOAc (1×700 mL, 1×250 mL), combined EtOAc layers were washed with saturated NaHCO3 solution (2×250 mL), dried (Na2SO4) and evaporated to obtain 22 g of monosulfonamide. To this dioxane (350 mL), water (450 mL) (Note: requires high dilution for fast reaction) was added, followed by NaOH (30 g, 0.75 mol) and stirred under reflux for 24 hours. Dioxane was removed in vacuo and conc. HCl (75 mL) was added slowly with cooling. The resultant solid was filtered, washed with water and dried in vacuo to afford title compound (22 g, 88% for 2 steps) as light yellow solid. (M+H) Expected: 395.0; found 394.9.

reactant | 3-amino-5-methylpicolinonitrile | 72 mmol, 9.6 g | NC=1C(=NC=C(C1)C)C#N | C7H7N3
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 80 mmol, 19.6 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
reactant | NaOH | 2N, 100 mL | [OH-].[Na+]
reactant | HCl | 2 N, 100 mL | Cl | ClH
reactant | NaOH | 0.75 mol, 30 g | [OH-].[Na+]
reactant | water | 450 mL | O | H2O
solvent | pyridine | 63 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
product | 3-(4-Chloro-3-trifluoromethyl-benzenesulfonylamino)-5-methyl-pyridine-2 carboxylicacid | 22 g, 88% | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(=O)O)C(F)(F)F | C14H10ClF3N2O4S
